US08067599B2
3-(1-Cyano-1-methyl-ethyl)-benzoic acid ethyl ester
3-(1-Cyano-ethyl)-benzoic acid ethyl ester were dissolved in 4 ml dry DMF. Under nitrogen atmosphere, 138 mg of 60% sodium hydride and 423 mg methyl iodide were added at RT. The mixture was stirred for 16 hrs, then quenched by addition of 1 ml methanol and evaporated. The residue was purified by chromatography on silica in ethyl acetate/heptane mixtures.

reactant | 3-(1-Cyano-ethyl)-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)C(C)C#N)=O | C12H13NO2
reactant | sodium hydride | 138 mg | [H-].[Na+]
reactant | methyl iodide | 423 mg | CI | CH3I
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 3-(1-Cyano-1-methyl-ethyl)-benzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1)C(C)(C)C#N)=O | C13H15NO2
